US06914074B2
1-Fluoro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 2-methoxy-6-(4-methoxyphenyl)-1-fluoronaphthalene (0.250 g, 0.886 mmol) with boron tribromide (2.7 mL of 1 N solution, 2.7 mmol) according to method D to yield 0.13 g (15%) of a white solid: mp 219-224° C.;

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-fluoronaphthalene | 0.886 mmol, 0.250 g | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)F | C18H15FO2
reactant | boron tribromide | 2.7 mmol, 1 N, 2.7 mL | B(Br)(Br)Br | BBr3
product | 1-Fluoro-6-(4-hydroxyphenyl)-2-naphthol | FC1=C(C=CC2=CC(=CC=C12)C1=CC=C(C=C1)O)O | C16H11FO2
